US09102614B2
2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-methylbut-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid (69)
Preparation of ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate: To a solution of ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-hydroxyacetate (˜2.78 mmol) in t-BuOAc (14 mL) was added perchloric acid (HClO4) (334 μL, 5.56 mmol). After 3 h, water was added. The layers were separated, and the organic layer was dried, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexanes) to give 877 mg of the titled compound. 1H-NMR: 400 MHz, (CDCl3) δ: 7.62 (m, 2H), 7.51 (m, 4H), 7.27 (m, 2H), 5.09 (s, 1H), 4.15 (m, 2H), 2.59 (s, 3H), 1.19 (t, J=7 Hz, 3H), 1.00 (s, 9H).

reactant | ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | BrC1=CC=C2C=C(C(=C(C2=C1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)OC(C)(C)C)C | C25H26BrClO3
reactant | ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-hydroxyacetate | ˜2.78 mmol | BrC1=CC=C2C=C(C(=C(C2=C1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)O)C | C21H18BrClO3
reactant | perchloric acid | 5.56 mmol, 334 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | water | O | H2O
solvent | t-BuOAc | 14 mL | C(C)(C)(C)OC(=O)C | C6H12O2
product | 2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-methylbut-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid | 877 mg | C(C)(C)(C)OC(C(=O)O)C1=C(C2=CC(=CC=C2C=C1C)C#CC(C)(C)O)C1=CC=C(C=C1)Cl | C28H29ClO4
